### PR TITLE
[Merged by Bors] - feat: port Data.Int.NatPrime

### PR DESCRIPTION
**Pull request by LukasMias**

### CODE REVIEW

File: Mathlib/Data/Int/NatPrime.lean [hunk 1]
```diff
@@ -0,0 +1,43 @@
...
+  have hpm' : p ^ k ∣ m.natAbs := Int.coe_nat_dvd.1 <| Int.dvd_natAbs.2 hpm
+  have hpn' : p ^ l ∣ n.natAbs := Int.coe_nat_dvd.1 <| Int.dvd_natAbs.2 hpn
+  have hpmn' : p ^ (k + l + 1) ∣ m.natAbs * n.natAbs := by
+    rw [← Int.natAbs_mul]; apply Int.coe_nat_dvd.1 <| Int.dvd_natAbs.2 hpmn
+  let hsd := Nat.succ_dvd_or_succ_dvd_of_succ_sum_dvd_mul p_prime hpm' hpn' hpmn'
+  hsd.elim (fun hsd1 => Or.inl (by apply Int.dvd_natAbs.1; apply Int.coe_nat_dvd.2 hsd1))
+    fun hsd2 => Or.inr (by apply Int.dvd_natAbs.1; apply Int.coe_nat_dvd.2 hsd2)
+#align int.succ_dvd_or_succ_dvd_of_succ_sum_dvd_mul Int.succ_dvd_or_succ_dvd_of_succ_sum_dvd_mul
+
+theorem Prime.dvd_nat_abs_of_coe_dvd_sq {p : ℕ} (hp : p.Prime) (k : ℤ) (h : (p : ℤ) ∣ k ^ 2) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Int/NatPrime.lean:39]:
```suggestion
theorem Prime.dvd_natAbs_of_coe_dvd_sq {p : ℕ} (hp : p.Prime) (k : ℤ) (h : (p : ℤ) ∣ k ^ 2) :
```

File: Mathlib/Data/Int/NatPrime.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+
+! This file was ported from Lean 3 source module data.int.nat_prime
+! leanprover-community/mathlib commit 422e70f7ce183d2900c586a8cda8381e788a0c62
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
+-/
+import Mathlib.Data.Nat.Prime
+
+/-!
+# Lemmas about nat.Prime using `int`s
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/NatPrime.lean:14]:
```suggestion
# Lemmas about `Nat.Prime` using `Int`s
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
